US05574055
7.63 g (37.0 mmol) of 4-(4-nitrophenyl)piperidine and 8.88 g (40.7 mmol) of di-tert-butyl dicarbonate were stirred at room temperature in 150 ml of chloroform for 4 hours. Thereafter, the mixture was washed with water and the organic phase was dried over sodium sulfate, filtered and evaporated. After recrystallization from n-hexane there were obtained 11.2 g of t-butyl 4-(4-nitrophenyl)-piperidine-1-carboxylate. M.p.: 60°-62°.

reactant | 4-(4-nitrophenyl)piperidine | 37.0 mmol, 7.63 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CCNCC1 | C11H14N2O2
reactant | di-tert-butyl dicarbonate | 40.7 mmol, 8.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | t-butyl 4-(4-nitrophenyl)-piperidine-1-carboxylate | 11.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
